US07368592B1
N-methylation could be achieved by adding an alkylation agent. Preferably methyl iodide or dimethyl sulfate in a molar ratio, relative to isatoic anhydride, from 1 to 5, preferably 1.5, at a temperature from 10-40° C. In the case of a methylating agent, the intermediate N-methylisatoic anhydride could be isolated by filtration as a colourless crystalline compound by adding 2 parts of water to the reaction mixture. Identification was established by compare HPLC chromatograms with authentic material (supplied by Aldrich).

reactant | methyl iodide | CI | CH3I
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | N-methylisatoic anhydride | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
